US06974877B2
To a 500 mL three necked round bottom flask with a thermometer, and a distillation head was added 32.76 grams of aluminum tri(sec-butoxide) and 200 mLs of cyclohexanol. To this was added 9 grams 3,10-Dimethylpentacene-5,12-dione. The reaction mixture was heated to 145° C. At 140° C., 8.7 grams of a distillate was collected. The reaction mixture was heated at 140° C. for 43 hours and cooled to room temperature. A solid was isolated by centrifugation. The supernate liquid was poured off and the solid was slurried with 140 mLs of 1N HCl and isolated on a Buchner funnel. The solid was slurried three times with 100 mLs each 1N HCl and the solvent was poured off each time. The solid was slurried three times with 100 mLs of acetone and isolated by filtration. The solid was slurried three times with 100 mLs of THF and isolated by filtration. The residue was air dried to give 2,9-dimethylpentacene.

reactant | aluminum tri(sec-butoxide) | 32.76 grams | CC([O-])CC.CC([O-])CC.CC([O-])CC.[Al+3]
reactant | cyclohexanol | 200 mLs | C1(CCCCC1)O | C6H12O
reactant | 3,10-Dimethylpentacene-5,12-dione | 9 grams | CC=1C=CC=2C=C3C=C4C(C5=CC(=CC=C5C=C4C=C3C(C2C1)=O)C)=O | C24H16O2
reactant | HCl | 1N, 140 mLs | Cl | ClH
reactant | HCl | 1N, 100 mLs | Cl | ClH
solvent | THF | 100 mLs | C1CCOC1 | C4H8O
solvent | acetone | 100 mLs | CC(=O)C | C3H6O
product | 2,9-dimethylpentacene | CC1=CC2=CC3=CC4=CC5=CC=C(C=C5C=C4C=C3C=C2C=C1)C | C24H18
